Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None 

attach
 
Pertinent Results:
ADMISSION LABS

___ 11:00AM BLOOD WBC-4.4 RBC-4.52 Hgb-12.8 Hct-41.0 MCV-91 
MCH-28.3 MCHC-31.2* RDW-13.1 RDWSD-42.9 Plt ___
___ 07:23AM BLOOD Glucose-85 UreaN-12 Creat-1.0 Na-145 
K-4.7 Cl-107 HCO3-26 AnGap-12
___ 07:23AM BLOOD Calcium-9.6 Phos-4.0 Mg-2.0

IMAGING: 

Final Report
EXAMINATION:  MR HEAD W/O CONTRAST ___ MR HEAD
INDICATION:  ___ with history of hypothyroidism and vertigo 
who presented to
the ED with dizziness, most likely due to known vestibular 
neuronitis induced
by a viral syndrome.  // ?ischemic stroke
TECHNIQUE:  Sagittal T1 weighted imaging was performed. Axial 
imaging was
performed with gradient echo, FLAIR, diffusion, and T2 technique 
were then
obtained.
COMPARISON  CTA dated ___
FINDINGS: 
The exam is slightly degraded by motion artifact.  Within these 
confines:
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift
or infarction.   The ventricles and sulci are normal in caliber 
and
configuration.  There is a nonspecific focus of T2/FLAIR 
hyperintensity in the
left external capsule without associated diffusion restriction, 
likely
sequelae chronic ischemic disease.  The visualized vascular flow 
voids are
grossly preserved.  There is mild thickening of the ethmoid air 
cells and
bilateral maxillary sinuses.  The mastoid air cells are clear.  
The globes and
orbits are unremarkable.  There is no abnormal marrow signal.
IMPRESSION:
1. Unremarkable noncontrast brain MRI.  No evidence of an acute 
infarct,
intracranial mass, or hemorrhage.
 
 
Brief Hospital Course:
TRANSLATIONAL ISSUES:
======================
[ ] please titrate and discontinue Meclizine as appropriate. was 
DCd with short course
[ ] please consider sleep study, patient concerned about OSA
[ ] consider MRI with gad to look for infection, schwannoma, or 
other nerve damage if symptoms persist. Patient had MRI non-con 
while hospitalized that was unrevealing.
[ ] Please ensure pt completes vestibular ___, patient was given 
a Rx on DC
[ ] Pt was DC'd with Rx for walker 

# Code status: Full, presumed  
# Health care proxy/emergency contact:  ___ 
Phone number: ___ 

ASSESSMENT & PLAN:  
=====================  
___ yo woman with history of hypothyroidism and with a history of 
multiple episodes of prior vertigo, believed to be a vestibular 
neuronitis induced by a viral syndrome, who presented with 
similar complaints of episodic subacute vertigo. Central causes 
were ruled out, and this was most likely contributed to known 
vestibular neuronitis induced by a viral syndrome.

ACUTE/ACTIVE PROBLEMS:  
======================  
# Vestibular Neuronitis/peripheral vestibulopathy
Orthostatic vitals were negative. Neurologic exam unremarkable. 
Notable for absence of nystagmus, skew deviation, dysmetria, 
ataxia. Notably, symptoms not reproduced by ___ in ED, 
but did recur when went from supine to sitting after maneuver. 
Positive head impulse test with ___ consistent with peripheral 
cause of vertigo. CT head and CTA head/neck are unremarkable for 
any acute process. MRI of the head without contrast without 
evidence of acute infarct, intracranial mass, or hemorrhage. 
Neurology was consulted and agreed with symptomatic control. 
Discharged on Meclizine and Zofran. Will also receive vestibular 
physical therapy, was DC'd with Rx. If symptoms not continuing 
to improve, could consider MRI with contrast of head to look for 
schwannoma, nerve damage or infection. 

CHRONIC/STABLE PROBLEMS:  
========================  
# Hypothyroidism: Continued home levothyroxine 112 mcg
# Iron Deficiency Anemia: Resolved in ___. Hgb currently at 
baseline 

[x]>30 minutes spent on discharge planning and care coordination 
on day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. capsaicin 0.1 % topical DAILY:PRN 

 
Discharge Medications:
1.  Meclizine 25 mg PO TID  
2.  Ondansetron 4 mg PO Q8H  
3.  capsaicin 0.1 % topical DAILY:PRN  
4.  Levothyroxine Sodium 112 mcg PO DAILY  
5.Outpatient Physical Therapy
ICD-9 code: ___

Patient will need vestibular physical therapy.

PCP: Name: ___., Phone: ___ 

6.___
ICD 9 Code: ___
PCP: ___, ___
Prognosis: Good
Length: 12 months 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Vestibular Neuronitis/peripheral vestibulopathy
Vertigo 

SECONDARY DIAGNOSES 
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were very dizzy.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had imaging of your brain to rule out a stroke
- You were started on mediation to help with your dizziness

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

We wish you the best! 

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___